US07368578B2
A mixture of 2-methylpropanethioamide (5.20 g), 1,3-dichloro-2-propanone (7.03 g) and ethanol (100 mL) was heated under reflux for 2 hrs. The reaction mixture was concentrated and ethyl acetate was added to the residue. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 4-chloromethyl-2-isopropyl-1,3-thiazole as a colorless oil (6.33 g, yield 72%) from a fraction eluted with ethyl acetate-hexane (1:20, v/v).

reactant | 2-methylpropanethioamide | 5.20 g | CC(C(N)=S)C | C4H9NS
reactant | 1,3-dichloro-2-propanone | 7.03 g | ClCC(CCl)=O | C3H4Cl2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-chloromethyl-2-isopropyl-1,3-thiazole | 6.33 g, yield 72% | ClCC=1N=C(SC1)C(C)C | C7H10ClNS
